US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2-chloro-3-methylaniline to yield 2-[(2-chloro-3-methylphenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2-chloro-3-methylaniline | ClC1=C(N)C=CC=C1C | C7H8ClN
product | 2-[(2-chloro-3-methylphenyl)amino]phenylacetic acid | ClC1=C(C=CC=C1C)NC1=C(C=CC=C1)CC(=O)O | C15H14ClNO2
